US06706744B2
Starting material: 3-(4-formylbenzoylamino)propionic acid methyl ester
4-Formylbenzoic acid (25 g, 0.167 mol) was dissolved in DMF (250 ml) and added HOBt (38.3 g, 0.2 mol) and, in portions, 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride (27.1 g, 0.2 mol) and the resulting mixture was stirred at room temperature for 16 hours. More 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride (11.2 g, 84 mmol) was added and the mixture was stirred at room temperature for 2.5 hours. More 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride (5.5 g, 41 mmol) was added and the mixture was stirred at room temperature for 2 hours. Water (500 ml) was added and the mixture was extracted with ethyl acetate (500 ml). The organic phase was washed with water (2×400 ml), dried (sodium sulphate) and evaporated in vacuo. This afforded 20 g (51%) of 3-(4-formylbenzoylamino)propionic acid methyl ester as a solid.

reactant | 4-Formylbenzoic acid | 0.167 mol, 25 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | HOBt | 0.2 mol, 38.3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride | 0.2 mol, 27.1 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride | 84 mmol, 11.2 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride | 41 mmol, 5.5 g | Cl.CN(CCCN=C=NCC)C
reactant | Water | 500 ml | O | H2O
reactant | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 3-(4-formylbenzoylamino)propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C=O)=O)=O | C12H13NO4
